US05932590
Preparation of 2-(t-Butyloxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide
To a solution of 2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid (0.15 g, 0.54 mmol) and 3-(4-cyanobenzyl) histamine (0.122 g, 0.54 mmol) in DMF (5 mL) was added 1-hydroxybenzotriazole (0.083 g, 0.54 mmol), EDC (0.104 g, 0.54 mmol), and N-methylmorpholine (0.24 mL, 2.16 mmol). After stirring for 18 hr. the mixture was evaporated in vacuo and the residue was partitioned with EtOAc (50 mL) and saturated NaHCO3 (30 mL). The organic layer was washed with saturated NaCl solution (30 mL) and dried (MgSO4). Filtration was done which gave the title compound.

reactant | 2-(t-butyloxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid | 0.54 mmol, 0.15 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | 3-(4-cyanobenzyl) histamine | 0.54 mmol, 0.122 g | C(#N)C1=CC=C(CN2C=NC=C2CCN)C=C1 | C13H14N4
reactant | 1-hydroxybenzotriazole | 0.54 mmol, 0.083 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 0.54 mmol, 0.104 g
reactant | N-methylmorpholine | 2.16 mmol, 0.24 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(t-Butyloxycarbonyl)-1,2,3,4-tetrahydro-isoquinoline-3(S)-carboxylic acid {2-[3-(4-cyanobenzyl)-3H-imidazol-4-yl]-ethyl}-amide | C(#N)C1=CC=C(CN2C=NC=C2CCNC(=O)[C@H]2N(CC3=CC=CC=C3C2)C(=O)OC(C)(C)C)C=C1 | C28H31N5O3
